US03933845
A solution of 0.3 parts of 5-[2,3-dihydro-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole and 0.44 parts of selenium dioxide in 20 parts of amyl alcohol was heated under gentle reflux for 8 hours. After cooling, ether was added to the reaction mixture, the resulting precipitate was filtered off and the filtrate was evaporated to give a solid which was crystallised from a mixture of ethyl acetate and petroleum ether (b.p. 40°-60°C) giving 5-[5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole as colourless prisms, m.p. 165°-166°C.

reactant | 5-[2,3-dihydro-5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=CC2=C1C(CC(O2)C2=NN=NN2)=O)C | C15H18N4O3
reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | amyl alcohol | C(CCCC)O | C5H12O
solvent | ether | CCOCC | C4H10O
product | 5-[5-(3-methyl-n-butoxy)-4-oxo-4H-1-benzopyran-2-yl]tetrazole | CC(CCOC1=CC=CC2=C1C(C=C(O2)C2=NN=NN2)=O)C | C15H16N4O3
